US06313072B1
4-Chloro-2-methylthio-6-(4-trifluoromethylphenyl)-pyrimidine
31.3 ml 1.6M n-butyllithium in hexane are added at −70° C. to a solution of 11.25 g 4-bromo-benzotrifluorid in 50 ml diethylether. After stirring for 15 min. the solution is warmed to −30° C. and added to a −30° C. cold solution of 8.0 g 4-chloro-2-methylthio-pyrimidine in 50 ml ether. The mixture is stirred for 30 min. at −30° C. and another 30 min. at 0° C., then quenched with a mixture of 3.2 ml acetic acid, 0.5 ml water and 10 ml tetrahydrofuran (THF). Immediately after quenching, a solution of 11.8 g dichlorodicyanobenzoquinone (DDQ) in 50 ml THF is added and stirring is continued for 5 min. at room temperature. It is again cooled to 0° C. and 20 ml 10% aqueous sodium hydroxide are added. After stirring for 5 min. at 0° C. the organic layer is separated, dried and chromatographed to yield 10.3 g of the title compound (m.p. 93-96° C.).

reactant | n-butyllithium | 1.6M, 31.3 ml | C(CCC)[Li]
reactant | 4-bromo-benzotrifluorid | 11.25 g | BrC1=CC=C(C=C1)C(F)(F)F | C7H4BrF3
reactant | 4-chloro-2-methylthio-pyrimidine | 8.0 g | ClC1=NC(=NC=C1)SC | C5H5ClN2S
solvent | hexane | CCCCCC | C6H14
solvent | diethylether | 50 ml | C(C)OCC | C4H10O
solvent | ether | 50 ml | CCOCC | C4H10O
product | 4-Chloro-2-methylthio-6-(4-trifluoromethylphenyl)-pyrimidine | 10.3 g | ClC1=NC(=NC(=C1)C1=CC=C(C=C1)C(F)(F)F)SC | C12H8ClF3N2S
